US03978069
13.7 g phenyl-p-tolyl-chloroacetic acid methyl ester (prepared from p-tolyl-magnesium bromide and benzoyl-formic acid methyl ester and treatment with PCl5 ; (b.p. 150°C./0.3 mm Hg) are heated with 10 g imidazole in 100 ml acetonitrile at boiling temperature for 16 hours. The acetonitrile is distilled off in a vacuum. The residue is treated with 50 ml of water and then extracted with methylene chloride. The methylene chloride solution is distilled off in a vacuum and the residue recrystallized from a little ethyl acetate. The phenyl-p-tolyl-imidazolyl-acetic acid methyl ester i.e. phenyl-4-methylphenyl-imidazolyl-acetic acid methyl ester of m.p. 146°C. is thus obtained.

reactant | phenyl-p-tolyl-chloroacetic acid methyl ester | 13.7 g | COC(C(Cl)(C1=CC=C(C=C1)C)C1=CC=CC=C1)=O | C16H15ClO2
reactant | p-tolyl-magnesium bromide | C1(=CC=C(C=C1)[Mg]Br)C
reactant | benzoyl-formic acid methyl ester | COC(=O)C(C1=CC=CC=C1)=O | C9H8O3
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | imidazole | 10 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | phenyl-4-methylphenyl-imidazolyl-acetic acid methyl ester | COC(C(C=1NC=CN1)(C1=CC=C(C=C1)C)C1=CC=CC=C1)=O | C19H18N2O2
